US04788186
6-phenyl-1,2,4-triazolo[3,4-a]phthalazine
A mixture of 4-phenyl-1-hydrazinophthalazine (30 g) and triethylorthoformate (200 ml) is refluxed for 3 hours, then the excess of the orthoformate is evaporated off and the residue is crystallized from ethanol yielding 26 g of the compound of the title. M.p. 198°-99° C.

reactant | 4-phenyl-1-hydrazinophthalazine | 30 g | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NN | C14H12N4
reactant | triethylorthoformate | 200 ml | C(C)OC(OCC)OCC | C7H16O3
product | 6-phenyl-1,2,4-triazolo[3,4-a]phthalazine | C1(=CC=CC=C1)C1=NN2C(C3=CC=CC=C13)=NN=C2 | C15H10N4
